US05089496
8-CHLORO-11-(1-ACETYL-4-PIPERIDYLIDENE)-6,11-DIHYDRO-5H-BENZO[5,6]CYCLOHEPTA[1,2-b]PYRIDINE-N-OXIDE
To a mixture of 711 mg (2.01 mmole) of 8-chloro-11-(1-acetyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6] cyclohepta[1,2-b]pyridine in 30 ml of dry CH2Cl2 at -10° C. and under a nitrogen atmosphere was added 246 mg (1.60 mmole) of m-chloroperoxybenzoic acid. After 95 min. the mixture was taken up in CH2Cl2 and washed once with 10% aqueous sodium bisulfite and once with 10% aqueous sodium hydroxide. It was dried over magnesium sulfate, filtered, and concentrated in vacuo. The product was purified via flash chromatography (MeOH in CH2Cl2) and recrystallized from ethyl acetate/hexanes to give 175 mg of the title compound as a hemi-ethyl acetate solid. (m.p. 90.5°-93° C.)

reactant | 8-chloro-11-(1-acetyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6] cyclohepta[1,2-b]pyridine | 2.01 mmole, 711 mg | ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCN(CC2)C(C)=O)C1 | C21H21ClN2O
reactant | m-chloroperoxybenzoic acid | 1.60 mmole, 246 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 8-CHLORO-11-(1-ACETYL-4-PIPERIDYLIDENE)-6,11-DIHYDRO-5H-BENZO[5,6]CYCLOHEPTA[1,2-b]PYRIDINE-N-OXIDE | 175 mg | ClC=1C=CC2=C(CCC=3C(=[N+](C=CC3)[O-])C2=C2CCN(CC2)C(C)=O)C1 | C21H21ClN2O2
